US07629359B2
Synthesis of 4-phenyl-1-(4-phenylbutyl)piperidine
4-Phenylpiperidine (1 eq) was reacted with 4-phenylbromobutyl (1 eq) in the presence of K2CO3 in acetonitrile at reflux overnight. The product obtained was treated and purified on a silica column. The 1H NMR at 500 MHz is in accordance with the expected structure.

reactant | 4-Phenylpiperidine | 1 eq | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
product | 4-phenyl-1-(4-phenylbutyl)piperidine | C1(=CC=CC=C1)C1CCN(CC1)CCCCC1=CC=CC=C1 | C21H27N
